US05144039
The same procedure as in Example 1 was repeated except that (+)-norephedrine hydrochloride was replaced by (-)-norephedrine hydrochloride, triglyme was replaced by 0.4 ml of dimethylformamide, dimethyl sulfide was replaced by diethyl sulfide, monochlorobenzene was replaced by 1,2-dichloroethane, (E)-1-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-4,4-dimethyl-1-penten-3-one was replaced by 0.27 g (1.85 mmoles) of phenyl isopropyl ketone, and the reduction reaction was conducted for 18.5 hours, to obtain 0.27 g of crude (-)-phenylisobutyl alcohol.

reactant | (-)-norephedrine hydrochloride | C[C@@H]([C@@H](C1=CC=CC=C1)O)N.Cl
reactant | triglyme | COCCOCCOCCOC | C8H18O4
reactant | dimethyl sulfide | CSC | C2H6S
reactant | diethyl sulfide | C(C)SCC | C4H10S
reactant | (E)-1-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-4,4-dimethyl-1-penten-3-one | ClC1=C(C=CC(=C1)Cl)\C=C(/C(C(C)(C)C)=O)\N1N=CN=C1 | C15H15Cl2N3O
reactant | phenyl isopropyl ketone | 1.85 mmoles, 0.27 g | C(C)(C)C(=O)C1=CC=CC=C1 | C10H12O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | monochlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
product | (-)-phenylisobutyl alcohol | 0.27 g | C1(=CC=CC=C1)C(C(C)C)O | C10H14O
